US07482340B2
a) (6-Chloropyridin-3-ylmethyl)dimethylamine
2-Chloro-5-(chloromethyl)pyridine (500 mg) was dissolved in ethanol (7.0 ml). dimethylamine (0.83 ml, 33% in ethanol) and potassium carbonate (641 mg) were added and the resulting mixture was refluxed for 1.5 hours. After evaboration of ethanol, water was added and the aqueous mixture was extracted with ethyl acetate. 1H NMR (400 MHz, d6-DMSO) δ: 8.31 (d, 1H, J 2.3 Hz), 7.77 (dd, 1H, J 8.2, 2.3 Hz), 7.47 (d, 1H, J 8.2 Hz), 3.41 (s, 2H), 2.14 (s, 6H).

reactant | 2-Chloro-5-(chloromethyl)pyridine | 500 mg | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | dimethylamine | 0.83 ml | CNC | C2H7N
reactant | potassium carbonate | 641 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | ethanol | 7.0 ml | C(C)O | C2H6O
product | (6-Chloropyridin-3-ylmethyl)dimethylamine | ClC1=CC=C(C=N1)CN(C)C | C8H11ClN2
